US05206257
Aqueous ammonia solution (approximately 33% w /w, 1.2 ml) was added dropwise with stirring to a solution of 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylimidazole-5-sulphonyl chloride (2.0 g, 0.005 mol) in dioxane (15 ml) and the mixture was stirred for 3 hours. It was poured into water (50 ml) and extracted with diethyl ether (3×25 ml). The combined extracts were washed with water (2×50 ml) dried over anhydrous sodium sulphate and evaporated to dryness. The residue was purified by mplc on silica eluted with a mixture of ethyl acetate and petroleum spirit (bp 60°-80° C.) (1:2). Recrystallization from a mixture of ethyl acetate and petroleum spirit (b.p. 60°-80° C.) (1:3) gave 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylimidazole-5-sulphonamide (0.45 g), m.p. 266°-267° C., as an off-white solid.

reactant | ammonia | 1.2 ml | N | H3N
reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylimidazole-5-sulphonyl chloride | 0.005 mol, 2.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C)S(=O)(=O)Cl | C11H6Cl3F3N2O2S
reactant | water | 50 ml | O | H2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylimidazole-5-sulphonamide | 0.45 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C)S(=O)(=O)N | C11H8Cl2F3N3O2S
